US04692444
To a stirred mixture of iron powder (8.53 g) and ammonium chloride (0.85 g) in water (22 ml) and ethanol (66 ml) was added portionwise 8-nitro-1,4dihydro[1]benzothiopyrano[4,3-c]pyrazole (6.6 g) under reflux over a period of 15 minutes. After being stirred for 30 minutes under reflux, the mixture was filtered and the filtrate was evaporated in vacuo. To the residue were added aqueous sodium bicarbonate and ethyl acetate and the mixture was stirred at room temperature. The resulting precipitate was collected by filtration, washed with water, and recrystallized from a mixture of tetrahydrofuran and methanol to give 8-amino-1,4-dihydro[1]benzothiopyrano[4,3-c]pyrazole (3.79 g).

reactant | ammonium chloride | 0.85 g | [Cl-].[NH4+]
reactant | 8-nitro-1,4dihydro[1]benzothiopyrano[4,3-c]pyrazole | 6.6 g | [N+](=O)([O-])C=1C=CC2=C(C1)C=1NN=CC1CS2 | C10H7N3O2S
solvent | water | 22 ml | O | H2O
solvent | ethanol | 66 ml | C(C)O | C2H6O
catalyst | iron | 8.53 g | [Fe] | Fe
product | 8-amino-1,4-dihydro[1]benzothiopyrano[4,3-c]pyrazole | 3.79 g | NC=1C=CC2=C(C1)C=1NN=CC1CS2 | C10H9N3S
